US05849735
N-[5-[(6,11-Dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-6-yl)carbonyl]-2-pyridinyl]-2-methylfurane-3-carboxamide
To a cooled (0° C.) solution of 0.296 g of 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine and 624 μL of triethylamine in 3 ml of dichloromethane is added a solution of 6-[(2-methyl-3-furanylcarbonyl)amino]-3-pyridinecarbonyl chloride in 4 ml of dichloromethane. The mixture is stirred at room temperature for 16 hours and the solvent removed under vacuum. To the residue is added 1M NaHCO3 and the mixture extracted with ethyl acetate. The extract is washed with H2O, 1M NaHCO3 brine and dried (Na2SO4). The solvent is removed under vacuum and the residue chromatographed on silica gel with ethyl acetate-hexane as solvent to give the product as a solid.

reactant | 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine | 0.296 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
reactant | triethylamine | 624 μL | C(C)N(CC)CC | C6H15N
reactant | 6-[(2-methyl-3-furanylcarbonyl)amino]-3-pyridinecarbonyl chloride | CC=1OC=CC1C(=O)NC1=CC=C(C=N1)C(=O)Cl | C12H9ClN2O3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[5-[(6,11-Dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-6-yl)carbonyl]-2-pyridinyl]-2-methylfurane-3-carboxamide | N1=CC=CC2=C1NC1=C(N(C2)C(=O)C=2C=CC(=NC2)NC(=O)C2=C(OC=C2)C)C=CC=C1 | C24H19N5O3
